US04448772
A solution of 1-[[[[ethoxy(4-phenylbutyl)-phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester (2.43 g., 5 mmole) in dry tetrahydrofuran (15 ml.) is treated with 50% sodium hydride oil dispersion (0.24 g., 5 mmole) and stirred at room temperature for one hour. The mixture is then treated with methyl iodide (0.34 ml., 5.5 mmole) and stirred at room temperature for an additional 3 hours. The mixture is then partitioned between ethyl acetate-5% potassium bisulfate. The organic phase is washed successively with saturated sodium bicarbonate and saturated sodium chloride, dried (Na2SO4) and evaporated. The residue is purified by flash chromatography on silica eluting with acetone/dichloromethane (2:3) to give 1-[[methyl[[ethoxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester.

reactant | 1-[[[[ethoxy(4-phenylbutyl)-phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester | 5 mmole, 2.43 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CNC(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C26H35N2O5P
reactant | sodium hydride oil dispersion | 5 mmole, 0.24 g | [H-].[Na+]
reactant | methyl iodide | 5.5 mmole, 0.34 ml | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[[methyl[[ethoxy(4-phenylbutyl)phosphinyl]methyl]amino]carbonyl]-L-proline, phenylmethyl ester | CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)CP(=O)(CCCCC1=CC=CC=C1)OCC | C27H37N2O5P
